US08455475B2
tert-Butyl 9-(4-tert-butylpiperazin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate
1-tert-Butylpiperazine (0.21 g, 1.49 mmol) was added to tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate (see product of step (v) of the synthesis of amine AMN-06) (0.4 g, 1.49 mmol) and triethylamine (0.52 ml, 3.74 mmol) in methylene chloride (9.6 ml). The mixture was stirred for 5 min and sodium triacetoxyborohydride (0.44 g, 2.09 mmol) was then added and the mixture was stirred at room temperature overnight. Sat. NaHCO3 solution was added and, after separation of the phases, the organic phase was washed with sat. NaCl solution (2×), dried over sodium sulfate and concentrated in vacuo. Yield: 0.27 g (45%)

reactant | 1-tert-Butylpiperazine | 1.49 mmol, 0.21 g | C(C)(C)(C)N1CCNCC1 | C8H18N2
reactant | tert-butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H25NO3
reactant | triethylamine | 3.74 mmol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 2.09 mmol, 0.44 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 9.6 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 9-(4-tert-butylpiperazin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | C(C)(C)(C)N1CCN(CC1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C23H43N3O2
